US06093744
[(2,4,6-Triisopropyl-phenyl)-acetyl]-sulfamic acid 4-(aminomethylene)-2,6-diisopropyl-phenyl ester
[(2,4,6-Triisopropyl-phenyl)-acetyl]-sulfamic acid 4-cyano-2,6-diisopropyl-phenyl ester (5.15 g, 9.8 mmol) was dissolved in 100 mL of methanolic ammonia and 2.0 g of Raney-nickel was added. The resulting mixture was stirred under 50 psi of hydrogen at room temperature for 20 hours. Filtered and concentrated the residue to give a dark solid. Suspended in diethyl ether and acidified with HCl gas. Concentrated in vacuo and neutralized the residue with saturated aqueous sodium bicarbonate. The resulting white suspension was used without further purification.

reactant | [(2,4,6-Triisopropyl-phenyl)-acetyl]-sulfamic acid 4-cyano-2,6-diisopropyl-phenyl ester | 9.8 mmol, 5.15 g | C(#N)C1=CC(=C(C(=C1)C(C)C)OS(NC(CC1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)=O)(=O)=O)C(C)C | C30H42N2O4S
reactant | hydrogen | [H][H] | H2
reactant | HCl | Cl | ClH
solvent | ammonia | 100 mL | N | H3N
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | Raney-nickel | 2.0 g | [Ni] | Ni
product | [(2,4,6-Triisopropyl-phenyl)-acetyl]-sulfamic acid 4-(aminomethylene)-2,6-diisopropyl-phenyl ester | NC=C1CC(=C(C(=C1)C(C)C)OS(NC(CC1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)=O)(=O)=O)C(C)C | C30H46N2O4S
